US07247741B2
SYNTHESIS OF 3-[2-(4-ISOPROPYL 3-METHYL-PHENOXY)-ACETYLAMINO]-BENZOIC ACID
A solution of methyl 3-[2-(4-isopropyl-3-methyl-phenoxy)acetylamino]benzoate (948 mg, 2.78 mmol) and lithium iodide (3.72 g, 27.8 mmol) in anhydrous pyridine (15 mL) was heated to reflux for 20 h, then cooled and evaporated. The residue was taken up in water, and extracted twice with ethyl acetate. The extracts were washed with 1 N hydrochloric acid and brine, combined, dried over magnesium sulfate, filtered and evaporated to afford a semisolid mixture. The mixture was fractionally crystallized using ether-hexane to afford the title product as a solid, collected by filtration and dried under vacuum, m.p. 188–189° C. (772 mg, 2.36 mmol, 85%). 1H NMR (300 MHz, CDCl3): δ 8.44 (1H, br s), 8.03–7.96 (2H, m), 7.79 (1H, dt, J=7.7, 1.3 Hz), 7.39 (1H, t, J=7.9 Hz), 7.14 (1H, d, J=8.8 Hz), 6.79–6.73 (2H, m), 4.54 (2H, s), 3.03 (1H, heptet, J=7.0 Hz), 2.28 (3H, s), 1.14 (6H, d, J=7.0 Hz). MS (ESI): m/e 330 (3), 329 (21), 328 (100). Elemental analysis: calc. for C19H21NO4.0.1H2C, 69.33; H, 6.49; N, 4.25. observed C, 69.22; H, 6.53; N, 4.17.

reactant | methyl 3-[2-(4-isopropyl-3-methyl-phenoxy)acetylamino]benzoate | 2.78 mmol, 948 mg | C(C)(C)C1=C(C=C(OCC(=O)NC=2C=C(C(=O)OC)C=CC2)C=C1)C | C20H23NO4
reactant | lithium iodide | 27.8 mmol, 3.72 g | [I-].[Li+]
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 3-[2-(4-ISOPROPYL 3-METHYL-PHENOXY)-ACETYLAMINO]-BENZOIC ACID | C(C)(C)C1=C(C=C(OCC(=O)NC=2C=C(C(=O)O)C=CC2)C=C1)C | C19H21NO4
